US07132544B2
4-(4-Fluorophenyl)-2-(4-hydroxy-1-butynyl)-1-(3-Phenylpropyl)-5-(4-Pyridyl)imidazole
To a stirred solution of 4-(4-fluorophenyl)-2-iodo-1-(3-phenylpropyl)-5-(4-pyridyl)imidazole (1.42 g, 2.74 mmol) and 3-butyn-1-ol (0.289 g,4.1 mmol) in diisopropylamine (10 mL) was added bis(acetato)-bis(triphenylphosphine) palladium (0.102 g, 0.14 mmol), followed by the addition of copper(I) iodide (0.052 g, 0.274 mmol). The mixture was stirred at 75° C. for 4 h. The reaction mixture was then cooled to room temperature and quenched with water (100 mL). The mixture was extracted with ethyl acetate (2×50 mL). The combined ethyl acetate extract was washed with water (2×30 mL), brine (30 mL), and dried with Na2SO4. After removal of solvents, the crude product was obtained as a brown solid.

reactant | 4-(4-fluorophenyl)-2-iodo-1-(3-phenylpropyl)-5-(4-pyridyl)imidazole | 2.74 mmol, 1.42 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)CCCC1=CC=CC=C1)I | C23H19FIN3
reactant | 3-butyn-1-ol | 4.1 mmol, 0.289 g | C(CC#C)O | C4H6O
solvent | diisopropylamine | 10 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper(I) iodide | 0.274 mmol, 0.052 g | [Cu]I
product | 4-(4-Fluorophenyl)-2-(4-hydroxy-1-butynyl)-1-(3-Phenylpropyl)-5-(4-Pyridyl)imidazole | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)CCCC1=CC=CC=C1)C#CCCO | C27H24FN3O
